US07235581B2
d) (RS)-2-Oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic Acid Amide
150 mg (0.4 mmol) (RS)-2-oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid is dissolved in 4 ml THF. 59 mg (0.43 mmol) of 1-hydroxybenzotriazole and 80 mg (0.42 mmol) of N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide-hydrochloride is added and the reaction mixture is stirred at RT for 30 min. After cooling to 0° C. 4 ml of concentrated ammonia is added and the resulting mixture stirred at RT for 1 hour. Dilution with water, extraction and chromatography (silica gel, ethyl acetate) yields 15 mg (10%) of a colorless solid. MS: m/e=379.2 (M+H)+.

reactant | (RS)-2-oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid | 0.4 mmol, 150 mg | O=C1N(CCC1C(=O)O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F | C19H16F3NO4
reactant | 1-hydroxybenzotriazole | 0.43 mmol, 59 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide-hydrochloride | 0.42 mmol, 80 mg | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 4 ml | N | H3N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (RS)-2-Oxo-1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic Acid Amide | 15 mg, 10% | O=C1N(CCC1C(=O)N)C1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F | C19H17F3N2O3
